US04415573
To the solution of 2-(3-methoxy-4-acetoxyphenyl)-1,3-dioxolan (22 g) prepared from 3-methoxy-4-hydroxybenzaldehyde as in Example 12 in dichloromethane (50 ml) bis(trimethylsilyl)-5-fluorouracil prepared from 5-fluorouracil (10 g) was added followed by treating as in Example 10 to give 9.8 g of crystalline 1-[α-(2-hydroxyethoxy)-3-methoxy-4-acetoxybenzyl]-5-fluorouracil.

reactant | 2-(3-methoxy-4-acetoxyphenyl)-1,3-dioxolan | 22 g | COC=1C=C(C=CC1OC(C)=O)C1OCCO1 | C12H14O5
reactant | 3-methoxy-4-hydroxybenzaldehyde | COC=1C=C(C=O)C=CC1O | C8H8O3
reactant | 5-fluorouracil | 10 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-[α-(2-hydroxyethoxy)-3-methoxy-4-acetoxybenzyl]-5-fluorouracil | 9.8 g | OCCOC(C1=CC(=C(C=C1)OC(C)=O)OC)N1C(=O)NC(=O)C(=C1)F | C16H17FN2O7
